US03954797
Desulfurization of 1.5 g (7.17 mmol) of 5-methoxy-3-methylthio-2-oxindole dissolved in 100 ml of absolute ethanol with W-2 Raney-Ni gave in 71% yield 5-methoxy-2-oxindole, mp. 148.5°-150.5° (lit. mp. 152°-154°).*

reactant | 5-methoxy-3-methylthio-2-oxindole | 7.17 mmol, 1.5 g | COC=1C=C2C(C(NC2=CC1)=S)C | C10H11NOS
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | Ni | [Ni] | Ni
product | 5-methoxy-2-oxindole | 71% yield | COC=1C=C2CC(NC2=CC1)=O | C9H9NO2
